US07144906B2
Methyl 6-acetyl-6-benzoylaminohexanoate
6-Acetyl-6-benzoylaminohexanoic acid (4.35 g) was dissolved in 100 ml of methanol, and 0.5 ml of conc. sulfuric acid was added. The mixture was heated to reflux for 2.5 hours. The reaction solution was cooled, poured into ice-cold water, extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated to provide 4.4 g of the objective compound as yellowish crystals. M.p. 59-60° C.

reactant | 6-Acetyl-6-benzoylaminohexanoic acid | 4.35 g | C(C)(=O)C(CCCCC(=O)O)NC(C1=CC=CC=C1)=O | C15H19NO4
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 6-acetyl-6-benzoylaminohexanoate | 4.4 g | C(C)(=O)C(CCCCC(=O)OC)NC(C1=CC=CC=C1)=O | C16H21NO4
